US06468607B1
44.9 g of 2-methoxy-6-(4-propylcyclohexa-1-ene-1-yl)naphthalene was dissolved in 800 ml of ethyl acetate. To the solution was then added 10 g of 5% palladium carbon. The reaction mixture was then stirred at a hydrogen pressure of 4 kg/cm2 for 6 hours. The catalyst was then removed by filtration. The solvent was then distilled off. The residue was then dissolved in 180 ml of N,N-dimethylformamide. To the solution was then added 18 g of potassium t-butoxide. The reaction mixture was then heated to a temperature of 120° C. with stirring for 1 hour. The reaction solution was then allowed to cool to room temperature. To the reaction solution was then added 70 ml of a 10% hydrochloric acid to cause crystallization. The crystal thus precipitated wax filtered off, washed with water, and then dried under reduced pressure. The crystal was then recrystallized from ethanol to obtain 28.0 g of 2-methoxy-6-(trans-4-propylcyclohexyl)naphthalene.

reactant | 2-methoxy-6-(4-propylcyclohexa-1-ene-1-yl)naphthalene | 44.9 g | COC1=CC2=CC=C(C=C2C=C1)C1=CCC(CC1)CCC | C20H24O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 10 g | [C].[Pd]
product | 2-methoxy-6-(trans-4-propylcyclohexyl)naphthalene | 28.0 g | COC1=CC2=CC=C(C=C2C=C1)[C@@H]1CC[C@H](CC1)CCC | C20H26O
